US09301950B2
Compound S2 (tricyclo[4.3.1.13,8]undecan-1-aminium chloride) was synthesized from Tricyclo[4.3.1.1˜3,8˜]undecane-1-carboxylic acid (Matrix Scientific Cat. No. #037551) using curtius rearrangement according to the procedure described in previous report. (Nasr, K., Pannier, N., Frangioni, J. V. & Maison, W. Rigid multivalent scaffolds based on adamantane. J. Org. Chem. 73, 1056-1060 (2008). Diphenylphosphorylazide (DPPA) (1.29 ml, 6 mmol) and triethylamine (0.84 ml, 6 mmol) were added to a solution of Tricyclo[4.3.1.1˜3,8˜]undecane-1-carboxylic acid (0.97 g, 5 mmol) in 10 ml CH2Cl2 at ambient temperature. The reaction was stirred for 2 hours. An additional 10 ml CH2Cl2 and 10 ml H2O were added to the reaction mixture, the organic layer was separated and washed sequentially with H2O, saturated NaHCO3 and brine and dried over MgSO4. Solvent was removed by rotary evaporation and t-BuOH (50 ml) was added. The solution was heated to reflux under N2 atmosphere for 5 hours. Excess t-BuOH was removed in vacuo and the residue was treated with 50% TFA/CH2Cl2 at ambient temperature for 2 hours. N2 was purged through the mixture to remove excess TFA and CH2Cl2 to give yellow oil. 4M HCl in dioxane (3 ml) was added and the mixture was added dropwise to cold diethyl ether. A white solid was collected by centrifugation and subsequent decanting of the ether supernatant. Further flash column chromatography purification gave tricyclo[4.3.1.13,8]undecan-1-aminium chloride (compound S2) as a white solid (0.76 g, Yield: 75%). 1H-NMR (360 MHz, CD3OD) δ 2.28-2.24 (m, 3H), 1.96-1.93 (m, 4H), 1.90-1.87 (m, 4H), 1.82-1.72 (m, 4H), 1.55-1.52 (m, 2H); 13C-NMR (90 MHz, CD3OD) δ 53.91, 43.16, 42.46, 40.72, 38.18, 37.36, 35.87, 33.76, 32.54, 30.98, 28.38; ESI-MS: Calculated for C11H19N (M+H)+ 166.3. Found: 166.3.

reactant | Tricyclo[4.3.1.1˜3,8˜]undecane-1-carboxylic acid | C12(CC3CCC(CC(C1)C3)C2)C(=O)O | C12H18O2
reactant | Diphenylphosphorylazide | 6 mmol, 1.29 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 6 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | Tricyclo[4.3.1.1˜3,8˜]undecane-1-carboxylic acid | 5 mmol, 0.97 g | C12(CC3CCC(CC(C1)C3)C2)C(=O)O | C12H18O2
reactant | HCl | 4M | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | H2O | 10 ml | O | H2O
product | tricyclo[4.3.1.13,8]undecan-1-aminium chloride | 0.76 g, Yield: 75% | [Cl-].C12(CC3CCC(CC(C1)C3)C2)[NH3+] | InChI=1S/C11H19N.ClH/c12-11-5-8-1-2-9(6-11)4-10(3-8)7-11;/h8-10H,1-7,12H2;1H
